US07655669B2
4-Diethylamino-N-[4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]phenyl]-3-(trifluoromethyl)-benzamide
A solution containing approximately 50% of propylphosphonic anhydride in N,N-dimethylformamide (Fluka, Buchs, Switzerland; 1.14 mL, ˜1.8 mmol) is added to a stirred mixture of 4-methyl-N-[4-(3-pyridinyl)-2-pyrimidinyl]-1,3-benzenediamine (277.3 mg, 1 mmol), 4-diethylamino-3-(trifluoromethyl)-benzoic acid (261.3 mg, 1 mmol) and triethylamine (1.33 mL, 9.6 mmol) in 3 mL N,N-dimethylformamide. After stirring for 24 hours at room temperature, the mixture is treated with a half-saturated aqueous solution of sodium hydrogen carbonate and extracted three times with ethyl acetate. The combined organic extracts are dried (Na2SO4) and the solvent is evaporated off under reduced pressure. The crude product is purified by column chromatography on silica gel, eluent dichloromethane/methanol. The pure fractions are combined, evaporated and the residue is crystallised from acetone to give the title compound as a white solid.

reactant | propylphosphonic anhydride | CCCP(=O)=O | C3H7O2P
reactant | 4-methyl-N-[4-(3-pyridinyl)-2-pyrimidinyl]-1,3-benzenediamine | 1 mmol, 277.3 mg | CC1=C(C=C(C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1)N | C16H15N5
reactant | 4-diethylamino-3-(trifluoromethyl)-benzoic acid | 1 mmol, 261.3 mg | C(C)N(C1=C(C=C(C(=O)O)C=C1)C(F)(F)F)CC | C12H14F3NO2
reactant | triethylamine | 9.6 mmol, 1.33 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | ˜1.8 mmol, 1.14 mL | CN(C=O)C | C3H7NO
product | 4-Diethylamino-N-[4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]phenyl]-3-(trifluoromethyl)-benzamide | C(C)N(C1=C(C=C(C(=O)NC2=CC(=C(C=C2)C)NC2=NC=CC(=N2)C=2C=NC=CC2)C=C1)C(F)(F)F)CC | C28H27F3N6O
